US08877805B2
Step 1. Synthesis of 3-triisopropylsilyloxypropylamine
3-Hydroxylpropylamine (100 μL, 1.31 mmol) was dissolved in dichloromethane (4.4 mL), and triisopropylsilyl triflate (371 μL, 1.38 mmol) was added dropwise at room temperature. After stirring at room temperature for 15 minutes, the mixture was worked up according to a conventional method to give the title compound as a crude product.

reactant | 3-Hydroxylpropylamine | 1.31 mmol, 100 μL | OCCCN | C3H9NO
reactant | triisopropylsilyl triflate | 1.38 mmol, 371 μL | O(S(=O)(=O)C(F)(F)F)[Si](C(C)C)(C(C)C)C(C)C | C10H21F3O3SSi
solvent | dichloromethane | 4.4 mL | ClCCl | CH2Cl2
product | 3-triisopropylsilyloxypropylamine | C(C)(C)[Si](OCCCN)(C(C)C)C(C)C | C12H29NOSi
